US03978121
A solution of 9.25 g. (0.0314 mole) of 5-(3-ethoxypropyl)-5-hydroxy-dibenzo[a,d]cycloheptene prepared as above in 45 ml. of acetic anhydride is heated on the steam-bath for 90 minutes then cooled to 65°C. A stream of nitrogen is passed through the solution while 30 ml. of hydriodic acid (sp. gr., 1.5) is added in portions, keeping the temperature below 90°C. The solution develops a dark brown iodine color during the addition. The solution is heated to 80°C. for 30 minutes, then cooled and poured into ice-water. The brown oil that separates is extracted into benzene and the extract washed with water, dilute sodium thiosulfate solution and finally with water. Evaporation of the benzene gives the product 5-(3-iodopropyl)-5H-dibenzo[a,d]cycloheptene as a yellow oil. A sample gives a precipitate with alcoholic silver nitrate solution.

reactant | 5-(3-ethoxypropyl)-5-hydroxy-dibenzo[a,d]cycloheptene | 0.0314 mole | C(C)OCCCC1(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)O | C20H22O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydriodic acid | I | HI
reactant | iodine | II | I2
product | 5-(3-iodopropyl)-5H-dibenzo[a,d]cycloheptene | ICCCC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C18H17I
